US04350634
N-Benzoyl-N'-[2-(3-indolyl)ethyl]-1,3-diaminopropane
A solution of 8 g N-benzoyl-1,3-diaminopropane, 6,7 g 3-(2-bromoethyl)indole and 5 ml anhydrous triethylamine in 15 ml anhydrous dimethylformamide is maintained for 72 hours in nitrogen atmosphere. A dilute ammonia solution and methylene chloride are then added to the reaction mixture and the organic phase is dried and evaporated. The residue is chromatographied on silicagel using as eluant methylene chloride+5% methanol+0.3% ammonia, to yield the title compound (M.pt. of the naphthalene-2-sulfonate 203°-204° with decomposition after crystallization from ethanol).

reactant | N-benzoyl-1,3-diaminopropane | 8 g | C(C1=CC=CC=C1)(=O)NCCCN | C10H14N2O
reactant | 3-(2-bromoethyl)indole | 6,7 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Benzoyl-N'-[2-(3-indolyl)ethyl]-1,3-diaminopropane | C(C1=CC=CC=C1)(=O)NCCCNCCC1=CNC2=CC=CC=C12 | C20H23N3O
